Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
nausea, and vomiting
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: Mr. ___ is a ___ year old male with history of ETOH abuse 
and hypertension who presented to the ED with symptoms of nausea 
and vomiting after drinking 1 pint of Vodka today. He was noted 
to have an ETOH level of 257 in the ED. While being evaluated he 
additionally reported an episode of chest pain. An ECG was 
performed without dynamic change, first set of cardiac enzymes 
normal. He received a banana bag, aspirin and was transferred to 
the floor for management of his symptoms and rule out MI. 
   On arrival to the floor the patient denies any current 
symptoms except for ongoing pain in his knees and arms he has 
had for years secondary to osteoarthritis. Regarding chest pain 
patient reports this has been present for years, sometimes lasts 
for days at a time. He reports pain in his left upper chest 
without clear precipitant, usually responds to tylenol. He 
denies radiation of pain or associated dypsnea. He reports 
sweating with this pain but also sweating all the time which he 
attributes to his alcohol drinking. There have been no changes 
in characteristic or frequency in this pain. 
   Regarding his drinking, the patient reports initially that he 
wants to leave in the a.m. However, later reports he would be 
amenable to detox.

ED Course: 99.7, ___, 100% RA
Medications: Ondansetron, Aspirin 325mg, Thiamine, Folic Acid, 
Multivitamin IV
 
Past Medical History:
#. ETOH Abuse - drinks 3 pints of Vodka daily
- history of "tremors" but denies seizures or DTs
#. Osteoarthritis
#. Hypertension
 
Social History:
___
Family History:
none
 
Physical Exam:
Vitals: 98.4  ___  20  97% RA
General: Patient is a middle aged amle appears older than stated 
age, smells strongly of alcohol, mildly agitated but generally 
cooperative, in no acute distress
HEENT: NCAT, EOMI, sclera muddy, conjunctiva injected, pupils 
2-3mm bilaterally minimally reactive
Chest: CTA anterior and posterior bilaterlaly, no rales, rhonchi 
or wheeze. Few scars over anterior chest
Cor: Tachycardic, regular, no murmurs
Abdomen: Mildly distended, soft, non-tender
Rectal: deferred
Ext: mild skin tenting, no cyanosis or edema.
 
Pertinent Results:
___ 08:30AM   GLUCOSE-69* UREA N-12 CREAT-0.9 SODIUM-144 
POTASSIUM-4.6 CHLORIDE-103 TOTAL CO2-21* ANION GAP-25*
___ 08:30AM   CK(CPK)-173
___ 08:30AM   CK-MB-4 cTropnT-<0.01
___ 08:30AM   MAGNESIUM-1.8
___ 02:35AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:35AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 02:35AM URINE  RBC-<1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 02:35AM URINE  HYALINE-10*
___ 02:35AM URINE  MUCOUS-RARE
___ 12:10AM   GLUCOSE-84 UREA N-12 CREAT-1.0 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-18* ANION GAP-29*
___ 12:10AM   estGFR-Using this
___ 12:10AM   ALT(SGPT)-18 AST(SGOT)-26 ALK PHOS-136* TOT 
BILI-0.4
___ 12:10AM   LIPASE-24
___ 12:10AM   cTropnT-<0.01
___ 12:10AM   ALBUMIN-4.9* PHOSPHATE-3.7 MAGNESIUM-2.0
___ 12:10AM   ___
___ 12:10AM   WBC-6.5 RBC-4.85 HGB-15.2 HCT-44.3 MCV-91 
MCH-31.4 MCHC-34.3 RDW-14.3
___ 12:10AM   NEUTS-65.8 ___ MONOS-4.1 EOS-1.3 
BASOS-0.3
___ 12:10AM   PLT COUNT-254
___ 12:10AM   ___ PTT-22.4 ___
 
Brief Hospital Course:
The patient presented with alcohol intoxication. His 
Nausea/Vomiting are Likely secondary to ongoing alcohol abuse.  
He wanted to leave ASAP. His brief hospital course was 
uncomplicated. He wanted discharge despite his acidosis has not 
resolved. He understands the risk of leaving as he in not 
intoxicated any more. 
#. Tachycardia: Likely secondary to volume depletion, possibly 
withdrawal, no evidence of infection. he received volume 
resuscitation, Valium standing and CIWA. UA and cultres are 
pending.
#. Anion Gap Acidosis: Patient not a diabetics, likely related 
to ETOH and starvation ketosis. he wants to be discharged. trend 
has improved..
#. Chest Pain: Symptoms atypical for coronary ischemia, clinical 
suspicion low for ACS at current time. Stress test if desired 
can be performed as an outpatient. 
- tylenol improved the pain..
#. ETOH Abuse: Patient initially expressed interest in possible 
direct admission to detox. However, He changed his mind. he 
received IV fluids, Thiamine and Folate
Patient was advised to quit. he met the SW.
 
Medications on Admission:
none
 
Discharge Medications:
protonix
thiamine
folate
MVT
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
alcohol intoxication, dependency and abuse
 
Discharge Condition:
Excellent
 
Discharge Instructions:
Quit alcohol. Seek AAA help. return to ER if chest pain recurs, 
nausea, vomiting, abdominal pain or any new symptom. 
 
Followup Instructions:
___